US04302590
A solution of 4.79 g of diethyl azodicarboxylate in 125 ml of anhydrous benzene is added dropwise at 4° C. under nitrogen over a 90 minute period to a mixture of 4.78 g of cis-1-methyl-3-phenyl-4-piperidinol of Example 1 g, 7.21 g of triphenylphosphine, 3.54 g of 2-chlorophenol and 125 ml of anhydrous benzene. The mixture is stirred 18 hours at room temperature under nitrogen and then is filtered. The solid is washed well with hexane and the filtrate is concentrated in vacuo. The residue is triturated 18 hours with 250 ml of hexane and then filtered. The solid is washed well with hexane, triturated with ether and then filtered. The filtrates are combined and concentrated in vacuo to an oil. An ether solution of this material is made and is then extracted with 2 N HCl solution. The acid extracts are washed with ether, followed by extraction with dichloromethane. The dichloromethane extracts are washed with 10% aqueous NaOH solution, then with saturated NaCl solution, dried over anhydrous Na2SO4 and concentrated in vacuo to an oil. This material is chromatographed on silica gel, using acetone as a solvent to obtain an oil. This oil is dissolved in ether and treated dropwise with an HCl-saturated ether solution to yield a salt. The salt is filtered and washed with ether to afford a solid, mp s 230°, 232°-234° C. This material suspended in 25 ml of boiling ethyl acetate and acetone is gradually added to the boiling mixture until a solution is obtained. The solution is filtered hot and boiled down to start crystallization to yield a solid, mp 233°-235.5° C. of trans-4-(2-chlorophenoxy)-1-methyl-3-phenylpiperidine hydrochloride.

reactant | diethyl azodicarboxylate | 4.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cis-1-methyl-3-phenyl-4-piperidinol | 4.78 g | CN1C[C@H]([C@H](CC1)O)C1=CC=CC=C1 | C12H17NO
reactant | triphenylphosphine | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorophenol | 3.54 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | HCl | Cl | ClH
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | acetone | CC(=O)C | C3H6O
product | trans-4-(2-chlorophenoxy)-1-methyl-3-phenylpiperidine hydrochloride | Cl.ClC1=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C18H20ClNO.ClH/c1-20-12-11-17(21-18-10-6-5-9-16(18)19)15(13-20)14-7-3-2-4-8-14;/h2-10,15,17H,11-13H2,1H3;1H/t15-,17+;/m0./s1
